US06110933
To a solution of (3S)-3-[(2S)-5-benzyloxycarbonyl-2-aminopentanoyl]oxyhexadecanamide hydrochloride (1.79 g), 3-quinolinecarboxylic acid (630 mg) and 1-hydroxybenzotriazole (536 mg) in N,N-dimethylformamide (40 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (616 mg) at 0° C., and the mixture was stirred at room temperature for 2 hours. The solution was diluted with ethyl acetate (200 ml) and washed with 0.5N hydrochloric acid (200 ml), 10% aqueous citric acid (200 ml), saturated aqueous sodium bicarbonate (200 ml) and brine, successively. The organic layer was dried over magnesium sulfate and evaporated in vacuo to give (3S)-3-[(2S)-5-benzyloxycarbonyl-2-{(3-quinolyl)carbonylamino}pentanoyl]oxyhexadecanamide (2.16 g).

reactant | (3S)-3-[(2S)-5-benzyloxycarbonyl-2-aminopentanoyl]oxyhexadecanamide hydrochloride | 1.79 g | Cl.C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)N
reactant | 3-quinolinecarboxylic acid | 630 mg | N1=CC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | 1-hydroxybenzotriazole | 536 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 616 mg | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (3S)-3-[(2S)-5-benzyloxycarbonyl-2-{(3-quinolyl)carbonylamino}pentanoyl]oxyhexadecanamide | 2.16 g | C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCCC)NC(=O)C=1C=NC2=CC=CC=C2C1 | C39H53N3O6
